US04920225
A solution of 21 g of 2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(2-[4-(2,2-dimethyl-1,3-dioxolan-4-yl)methoxyphenyl]ethoxycarbonyl)-1,4-dihydropyridine in 150 mL of acetone and 50 mL of water is treated with 10 mL of hydrochloric acid and the mixture heated at reflux for 6 h. Water (500 mL) is added and the mixture was extracted with ether. The ether layer is dried over Na2SO4 and evaporated to an oil which is purified by medium pressure chromatography on silica gel (90% ethyl acetate-hexane) to give 2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(2-[4-(2,3-dihydroxypropoxy)phenyl]ethoxycarbonyl)-1,4-dihydropyridine, m.p. 117-118° C., [α]D =-33.5°.

reactant | 2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(2-[4-(2,2-dimethyl-1,3-dioxolan-4-yl)methoxyphenyl]ethoxycarbonyl)-1,4-dihydropyridine | 21 g | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCC1=CC=C(C=C1)OCC1OC(OC1)(C)C)C | C30H34N2O9
reactant | hydrochloric acid | 10 mL | Cl | ClH
solvent | acetone | 150 mL | CC(=O)C | C3H6O
solvent | water | 50 mL | O | H2O
solvent | Water | 500 mL | O | H2O
product | 2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(2-[4-(2,3-dihydroxypropoxy)phenyl]ethoxycarbonyl)-1,4-dihydropyridine | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCC1=CC=C(C=C1)OCC(CO)O)C | C27H30N2O9
